US07119068B2
In a flask equipped with a magnetic stirring bar and a rubber septum is dissolved the N-{(S)-1-hydroxy-3-phenyl-2-propyl}-5-benzyloxy-2-hydroxybenzamide in methanol. Nitrogen is bubbled through the solution and 10% Pd on charcoal is added. After flushing with nitrogen, the suspension is placed under hydrogen atmosphere and stirred for 2 hours. The suspension is flushed with nitrogen and filtered and rinsed over Celite. The filtrate is concentrated under vacuum. In this fashion is obtained N-{(S)-1-hydroxy-3-phenyl-2-propyl}-2,5-dihydroxybenzamide (85%).

reactant | N-{(S)-1-hydroxy-3-phenyl-2-propyl}-5-benzyloxy-2-hydroxybenzamide | OC[C@H](CC1=CC=CC=C1)NC(C1=C(C=CC(=C1)OCC1=CC=CC=C1)O)=O | C23H23NO4
solvent | methanol | CO | CH4O
product | N-{(S)-1-hydroxy-3-phenyl-2-propyl}-2,5-dihydroxybenzamide | 85% | OC[C@H](CC1=CC=CC=C1)NC(C1=C(C=CC(=C1)O)O)=O | C16H17NO4
